US03988373
To a solution of [1-methyl-3-(2,6,6-trimethyl-1-cyclohexenyl)propyl]dimethylamine (2.0 g) in dry ether (20 cc) was added methyliodide (2.0 g), and the mixture was allowed to stand overnight. Precipitated crystals were gathered by filtration and recrystallized from a mixed solvent of ethanol, benzene and ether to give colorless crystals (3.0 g) of [1-methyl-3-(2,6,6-trimethyl-1-cyclohexenyl)propyl]trimethylammonium iodide, m.p. 220°-222° C.

reactant | [1-methyl-3-(2,6,6-trimethyl-1-cyclohexenyl)propyl]dimethylamine | 2.0 g | CC(CCC1=C(CCCC1(C)C)C)N(C)C | C15H29N
reactant | methyliodide | 2.0 g | CI | CH3I
solvent | ether | 20 cc | CCOCC | C4H10O
product | [1-methyl-3-(2,6,6-trimethyl-1-cyclohexenyl)propyl]trimethylammonium iodide | 3.0 g | [I-].CC(CCC1=C(CCCC1(C)C)C)[N+](C)(C)C | InChI=1S/C16H32N.HI/c1-13-9-8-12-16(3,4)15(13)11-10-14(2)17(5,6)7;/h14H,8-12H2,1-7H3;1H/q+1;/p-1
